US05521177
b) Methyl 4'-[(2-n-propyl-4-chloro-6-amino-1H-benzimidazol-1-yl) -methyl]-biphenyl-2-carboxylate
2.05 g of methyl 4'-[(2-n-propyl-4-chloro-6-phthalimido-1H -benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate are dissolved in 125 ml of ethanol and mixed with 5 ml of a 40% aqueous methylamine solution. The reaction mixture is stirred for 3 hours at ambient temperature and then stirred into saline solution. After extracting 3 times with ethyl acetate the combined organic phases are dried over sodium sulphate and evaporated down. The residue is stirred with petroleum ether/ether (1:4) for 24 hours, the solids formed are suction filtered and dried.

reactant | methyl 4'-[(2-n-propyl-4-chloro-6-phthalimido-1H -benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate | 2.05 g | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC)C=C(C=C2Cl)N2C(C=1C(C2=O)=CC=CC1)=O | C33H26ClN3O4
reactant | methylamine | CN | CH5N
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | Methyl 4'-[(2-n-propyl-4-chloro-6-amino-1H-benzimidazol-1-yl) -methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC)C=C(C=C2Cl)N | C25H24ClN3O2
